US07053211B2
29,01 g (0,253 mol) potassium tert-butylate is suspended in 227 ml of THF and 40 g (0,249 mol) 1,3,4,5-tetrahydro-benzo[b]azepin-2-one is added in portions at a temperature of −16°. At the same temperature 140,22 g (0,50 mol) of n-hexyllithium (33% in hexane) are added over the course of 30 min. Then a solution of 34,28 g (0,276 mol) 3-bromo propane in 21,8 ml THF is added at a temperature of −16°. After the solution has been stirred for 23 hours and meanwhile was allowed to reach room temperature, 150 g of water is added dropwise while stirring and cooling with ice water. The resulting mixture is acidified with 62 g hydrochloric acid (37%), the phases are separated and the organic phase is evaporated. 150 ml dichloromethane is added to the residue, the suspension is filtered and the filter is washed with additional 60 ml dichloromethane. The solution is concentrated and the crystals which precipitated on cooling to 0° over night are filtered off. The solid is recrystallized from 94,9 g 2-propanol. 23,3 g (0,115 mol) of 4,5-dihydro-3-(2-propyl)-1H-benzo[b]azepine-2-one is obtained [46,1%, HPLC 98,4 area %].

reactant | potassium tert-butylate | 0,253 mol, 29,01 g | CC(C)(C)[O-].[K+]
reactant | 1,3,4,5-tetrahydro-benzo[b]azepin-2-one | 0,249 mol, 40 g | N1C2=C(CCCC1=O)C=CC=C2 | C10H11NO
reactant | 3-bromo propane | 0,276 mol, 34,28 g | BrCCC | C3H7Br
solvent | THF | 227 ml | C1CCOC1 | C4H8O
solvent | THF | 21,8 ml | C1CCOC1 | C4H8O
catalyst | n-hexyllithium | 0,50 mol, 140,22 g | C(CCCCC)[Li]
catalyst | water | 150 g | O | H2O
catalyst | hydrochloric acid | 62 g | Cl | ClH
product | 4,5-dihydro-3-(2-propyl)-1H-benzo[b]azepine-2-one | 0,115 mol, 23,3 g | CC(C)C1CCC2=C(NC1=O)C=CC=C2 | C13H17NO
